US04816452
a. Ethyl (Z)-2-(cyclopentyloxyimino)-3-oxobutyrate
Ethyl (Z)-2-(hydroxyimino)-3-oxobutyrate (7.9 g) was treated with cyclopentyl bromide as described in Example 4a, Method 2, except that the reaction was stirred overnight to give the title compound as a colourless liquid (9.Og, 80%), (Found: M+ +H, 228.1241. C11H17NO4 requires M+H, 228.1236); νmax (film) 2960 1745, 1700 cm-1 ; δH (CDCl3) 1.30 (3H, t), 1.6-2.0 (8H, m), 2.37 (3H, s), 4.31 (2H, q),and 4.87 (1H, m).

reactant | Ethyl (Z)-2-(hydroxyimino)-3-oxobutyrate | 7.9 g | O\N=C(/C(=O)OCC)\C(C)=O | C6H9NO4
reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
product | Ethyl (Z)-2-(cyclopentyloxyimino)-3-oxobutyrate | 80% | C1(CCCC1)O\N=C(/C(=O)OCC)\C(C)=O | C11H17NO4
